US06787543B2
Di-tert-butyl carbonate (996 mg) was added to a mixture of 2-benzhydrylpiperazine dihydrochloride (1.65 g) and N,N-diisopropylethylamine (3.5 ml) in N,N-dimethylformamide (17 ml) under ice-cooling. After being stirred at same temperature for 2 hours, the mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give a crude oil. The oil was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (50:1) to give 1-tert-butoxycarbonyl-3-benzhydrylpiperazine (1.26 g) as a colorless powder.

reactant | Di-tert-butyl carbonate | 996 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | 2-benzhydrylpiperazine dihydrochloride | 1.65 g | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1NCCNC1
reactant | N,N-diisopropylethylamine | 3.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 1-tert-butoxycarbonyl-3-benzhydrylpiperazine | 1.26 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2O2
